2169-12-26 10:25:00 Physician Attending Progress Note
Chief Complaint: Shortness of breath and hypoxia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2169-12-26**] 02:34 AM
 ARTERIAL LINE - START [**2169-12-26**] 04:19 AM
   Still with intermittent hypertension.
   Moves all 4 extremities, agitated requiring increased sedation
   overnight.
   Remains intubated and ventilator dependent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-26**] 07:08 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2169-12-26**] 04:32 AM
   Other medications:
   vanco and zosyn, asa 325, fentanyl drip, midazolam, insulin sliding
   scale, famotidine 20 q12, hepairn s/c tid, dextrose 50 iv x1.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-26**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 104 (75 - 117) bpm
   BP: 167/77(106) {100/60(73) - 216/99(142)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             668 mL
   PO:
             TF:
   IVF:
   343 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,920 mL
   Urine:
   120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -2,252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.30/43/271/21/-4
   Ve: 9.9 L/min
   PaO2 / FiO2: 542
   Physical Examination
   Ett, OG tube
   Well built, adentulous
   No Clavicular or cervical LAD
   Lungs rhonchoruous on the Right clear on the left
   S1, S2, distant, murmus not appreciated.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  warm, right forearm tattoo
   Neurologic: Deeply sedated and unresponsive, Tone: normal
   Labs / Radiology
   10.9 g/dL
   238 K/uL
   54 mg/dL
   10.8 mg/dL
   21 mEq/L
   7.2 mEq/L
   79 mg/dL
   104 mEq/L
   142 mEq/L
   32.4 %
   22.8 K/uL
        [image002.jpg]
                             [**2169-12-26**]  03:17 AM
                             [**2169-12-26**]  03:23 AM
   WBC
   22.8
   Hct
   32.4
   Plt
   238
   Cr
   10.8
   TropT
   0.08
   TCO2
   22
   Glucose
   59
   54
   Other labs: PT / PTT / INR:12.5/27.3/1.1, CK / CKMB /
   Troponin-T:89//0.08, ALT / AST:42/55, Alk Phos / T Bili:87/0.4, Lactic
   Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:434 IU/L, Ca++:11.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:9.4 mg/dL
   Imaging: CXR multifocal infiltrates edema vs pneumonia.
   Microbiology: U/A pending
   cultures pending
   Assessment and Plan
Acute respiratory failure: acute pulm edema with possible superimposed
   pneumonia. On empiric vanco and zosyn. To be dialysed. Would then wean
   Fio2 and PEEP and sedation as tolerated. Check ABG
 Arrest: this was not actually PEA, pt never received chest
   compressions. This may have been secondary to hyperkalemia/hypoxia, has
   been moving and not in a coma, not a candidate for cooling.
Hyperkalemia:  likely secondary to missing dialysis, now s/p HD, will
   follow up repeat K
 post HD K+ 3.7
HTN: will resume his home regimen, bblocker especially as he is having
   some ectopy
Dilated cardiomyopathy: resume bblocker
Diarrhea: send stool for C.diff
Access r/a in pm for likely placement of CVC.
? EtOH abuse: change versed to propofol also given renal failure. Tx
   with thiamine and folate.
   ICU Care
   Nutrition:
   Comments: NPO for now for possible rapid extubation
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-12-26**] 03:13 AM
   Arterial Line - [**2169-12-26**] 04:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2169-12-27 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HD x 2L
   - UF x 2L
   - Weaned Vent to 40% Peep 5 TV 500x 16, pH 7.45 / 44 /113
   - Family came, will try to extubate in AM, they will be in at 9am
   - Became very agitated at ~ 4am, required several proprofol boluses and
   [**1-25**] person restraint. Diaphoretic / tachypneic / tachycardic in A fib
   wit aberrant conduction.- attempted to increase BB but BP wouldn
   tolerate
   - Responded to sedation, no further weaning attempt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-12-26**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-26**] 08:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-12-26**] 11:25 AM
   Heparin Sodium (Prophylaxis) - [**2169-12-26**] 08:00 PM
   Fentanyl - [**2169-12-27**] 04:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 79 (79 - 117) bpm
   BP: 117/44(64) {101/42(61) - 216/99(142)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,546 mL
                                                                    229 mL
   PO:
             TF:
   IVF:
                                                                  1,061 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  5,100 mL
                                                                     10 mL
   Urine:
                                                                    150 mL
                                                                     10 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,554 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 540 (540 - 540) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 51.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/44/113/24/5
   Ve: 8.3 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   11.2 g/dL
   99 mg/dL
   8.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   42 mg/dL
   95 mEq/L
   143 mEq/L
   32.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2169-12-26**]  03:17 AM
                             [**2169-12-26**]  03:23 AM
                             [**2169-12-26**]  10:29 AM
                             [**2169-12-26**]  10:50 AM
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
   WBC
   22.8
   14.3
   Hct
   32.4
   32.5
   Plt
   238
   184
   Cr
   10.8
   6.3
   6.5
   8.0
   TropT
   0.08
   0.11
   TCO2
   22
   35
   32
   Glucose
   59
   54
   107
   96
   83
   99
   Other labs: PT / PTT / INR:13.3/25.1/1.1, CK / CKMB /
   Troponin-T:90//0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:67.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Respiratory Distress- Most likely due to volume overload and pulmonary
   edema in setting of malignant hypertension. Over last 24 hours able to
   remove 4L, however with ongoing agitation with lower sedation.
   Anticipate difficult weaning due to mental status.  His CXR looks
   markedly improved this morning and ABG look good on minimal support.
   - Plan to attempt extubation this afternoon; will d/c propofol after HD
   and attempt (unable to do RSBI [**12-26**] agitation)
   - Continue volume optimization with HD
   - Broad coverage antibiotics with Vancomycin and Zosyn for now given +
   sputum cultures
   - No additional lasix for now as getting 2KG removed via HD currently
   # ESRD/Hyperkalemia - Presumed [**12-26**] to patient missing HD session over
   the weekend. His EKG consistent with hyperkalemia; widened QRS and
   peaked T waves. Pt is now s/p Calcium gluconate, insulin, bicarbonate,
   and kayexalate.  Repeat EKG with improved QRS width.
   -Renal following
   - HD this AM
   - Continue Phos Lo
   -Repeat lytes this afternoon
   #Low Grade Temp- Etiology uncertain; no evidence of pneumonia on CXR,
   although sputum growing 1+ GP cocci in pairs/chains/clusters and 1+ GP
   rods. Blood cultures NGTD and C.Diff neg
   -F/U repeat blood cultures this AM
   -Continue vanc/zosyn for now
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # Atrial fibrillation: Noted during agitation overnight, not documented
   to have this in the past. Pt does have h/o dilated cardiomyopathy
   -- Rate control with beta blocker, increase to 25mg TID
   -- Consider systemic anticoagulation once stable
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session
   -Nitro gtt if needed
   -Titrate BB as needed
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -Determine home medications in AM
   -Cycle CE as above
   .
   # H/O ETOH Use- Has h/o; per family does not drink in past 3 years; tox
   screen negative on admission
   .
   # FEN: NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: Left AV fistula, 2 PIVs
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-12-26**] 03:13 AM
   Arterial Line - [**2169-12-26**] 04:19 AM
   18 Gauge - [**2169-12-26**] 10:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-12-27 10:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after several
   days of missed HD. Possible PEA arrest on admission though more likely
   respiratory arrest as never required CPR. Active issues include fluid
   overload/ pulm edema, presumed aspiration pna, diarrhea, agitation and
   resolving metabolic disarray after missed HD.
   24 Hour Events:
   Developed agitation o/n resolved w/ propofol and fentanyl. Also
   developed afib  with RVR overnight treated with IV lopressor.
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-12-26**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-26**] 08:00 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-12-26**] 11:25A
   Heparin Sodium (Prophylaxis) - [**2169-12-26**] 08:00 PM
   Fentanyl - [**2169-12-27**] 04:55 AM
   Other medications:
   ASA, RISS, heparin sc, folate, thiamine, Lopressor, Ca acetate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-27**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 72 (72 - 120) bpm
   BP: 139/52(77) {101/42(61) - 148/63(89)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,546 mL
                                                                    371 mL
   PO:
             TF:
   IVF:
                                                                  1,061 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  5,100 mL
                                                                     55 mL
   Urine:
                                                                    150 mL
                                                                     55 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,554 mL
                                                                    316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 540 (540 - 540) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Active [**Last Name (un) **]/Arrth, Agitated
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/44/115/27/3
   Ve: 9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Eyes open, follows simple commands, not interactive, agitated. Lungs
   clear ant-lat, abdomen soft, NT, ND. PPP. Skin:  Not assessed.
   Labs / Radiology
   11.2 g/dL
   184 K/uL
   86 mg/dL
   8.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   44 mg/dL
   94 mEq/L
   140 mEq/L
   32.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2169-12-26**]  03:17 AM
                             [**2169-12-26**]  03:23 AM
                             [**2169-12-26**]  10:29 AM
                             [**2169-12-26**]  10:50 AM
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
   WBC
   22.8
   14.3
   Hct
   32.4
   32.5
   Plt
   238
   184
   Cr
   10.8
   6.3
   6.5
   8.0
   8.5
   TropT
   0.08
   0.11
   TCO2
   22
   35
   32
   29
   Glucose
   59
   54
   107
   96
   83
   99
   86
   Other labs: PT / PTT / INR:13.3/25.1/1.1, ALT / AST:30/29, Alk Phos / T
   Bili:73/0.4, Differential-Neuts:67.0 %, Band:0.0 %, Lymph:20.0 %,
   Mono:4.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL,
   LDH:307 IU/L, Ca++:8.2 mg/dL, Mg++:3.7 mg/dL, PO4:7.3 mg/dL
   Fluid analysis / Other labs: vanco-26.5
   Imaging: CXR- hyperinflated and hyperlucent; decreased edema but not
   yet clear
   Microbiology: Sputum- GPCs pairs chains and clusters; GNRs
 commensal
   flora
   C diff- toxin neg
   Assessment and Plan
   59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after several
   days of missed HD. Probable respiratory arrest from acute CHF, unlikely
   PEA but presented with K>8. Active issues include fluid overload/ pulm
   edema, presumed aspiration pna, diarrhea, agitation and resolving
   metabolic disarray after missed HD.
   (1) RESP FAILURE- pulm edema + possible pna
   -cont fluid removal per HD
   -f/u sputum cx and cont empiric vanco + Zosyn
   - nicotine patch
   -plan for extubation after HD this pm; will need to simply turn off
   vent given inability to wean sedation --> monitor closely for flash
   edema after removal of positive pressure vent.
   At time of signing, extubated successfully but having persistent
   agitation. Appears to be withdrawing, possibly from narcotics. I
   contact[**Name (NI) **] patient
s PCP, [**Last Name (NamePattern4) **]. [**Last Name (STitle) 10380**], as well as his nephrologist, Dr [**Last Name (STitle) **]
   to inform them of the events and to inquire about substance abuse. Dr
   [**Last Name (STitle) 10380**] previously prescribed Percocets to Mr [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) 321**] but his tox
   screens were negative raising concern on her part that he may have been
   giving them away. She stopped prescribing 6 months ago. Dr [**Last Name (STitle) **] [**Last Name (STitle) 1413**]
   signs of withdrawal several months ago and started prescribing
   oxycodone 5 mg, 40 tabs/week. Family does not believe he is actively
   drinking. Will start CIWA with Ativan and give prn Haldol.
   (2) AFIB- predisposed w/ dilated CM; current agitation
   -control agitation; cont BB
   -may need anticoag; deferring for now
   (3) ESRD- back on HD
   -monitor lytes
   (4) HTN- BB uptitrated today
   (5) DIARRHEA- C diff neg
   (6) PRIOR ETOH
   -on propofol for now but plan for possible short-term IV benzo use
   peri-extubation
   ICU Care
   Nutrition:
   Comments: hold tf in anticipation of tf
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2169-12-26**] 04:19 AM
   18 Gauge - [**2169-12-26**] 10:53 AM
   20 Gauge - [**2169-12-27**] 08:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes

2169-12-28 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**12-27**]
   - tolerated HD, but persistant agitation and a-fib w/ RVR during
   dialysis. Required metoprolol 10mg x2 and dilt 10mg. Converted after
   dialysis was stopped
   - pt extubated
   - severe, severe, severe agitation requiring 6mg ativan, 5mg valium,
   4mg morphine and 17mg haldol. Still agitated at times. Called PCP and
   patient takes oxycodone/percocet at home. ~30mg daily.
   - pt improved and slept after getting 22mg IV haldol, 6mg ativan, 5mg
   valium, 4mg morphine.
   - pt agitated again at 2am given 10mg haldol x2 and 6mg ativan over 2
   hours. Calmed down and slept afterwards
 EKG - At [**2169-12-27**] 10:30 AM
 BLOOD CULTURED - At [**2169-12-27**] 11:08 AM
   2 sets one from HD line one one from a-line
 INVASIVE VENTILATION - STOP [**2169-12-27**] 02:00 PM
 ARTERIAL LINE - STOP [**2169-12-27**] 03:08 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-12-26**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-27**] 02:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-12-27**] 10:15 AM
   Diltiazem - [**2169-12-27**] 01:05 PM
   Diazepam (Valium) - [**2169-12-27**] 01:45 PM
   Morphine Sulfate - [**2169-12-27**] 03:04 PM
   Metoprolol - [**2169-12-28**] 12:01 AM
   Lorazepam (Ativan) - [**2169-12-28**] 03:42 AM
   Haloperidol (Haldol) - [**2169-12-28**] 03:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-28**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 78 (72 - 153) bpm
   BP: 123/44(60) {89/36(49) - 147/72(87)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    652 mL
                                                                     39 mL
   PO:
             TF:
   IVF:
                                                                    467 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,448 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/44/115/25/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   10.9 g/dL
   96 mg/dL
   6.3 mg/dL
   25 mEq/L
   3.3 mEq/L
   26 mg/dL
   100 mEq/L
   144 mEq/L
   31.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2169-12-26**]  03:23 AM
                             [**2169-12-26**]  10:29 AM
                             [**2169-12-26**]  10:50 AM
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
   WBC
   14.3
   14.1
   Hct
   32.5
   31.4
   Plt
   184
   175
   Cr
   6.3
   6.5
   8.0
   8.5
   6.3
   TropT
   0.11
   TCO2
   22
   35
   32
   29
   Glucose
   54
   107
   96
   83
   99
   86
   96
   Other labs: PT / PTT / INR:11.8/23.9/1.0, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:67.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Agitation- Patient markedly agitated overnight requiring large amounts
   of haldol, valium and ativan. Per pts PCP he takes 30mg oxycodone at
   home per day.  Unclear if agitation due to withdrawal from opiates
   given strong ETOH/? Drug abuse history.  Other ddx may include stroke
   vs viral encephalopathy. Required 10mg haldol/4mg ativan overnight to
   keep calm.
   -Psych consult
   -Continue Haldol higher doses, will limit benzos for now; monitor QT
   (prolonged at 450 baseline)
   -Consider CT head- will need reintubation for this
   #Respiratory Distress- Most likely due to volume overload and pulmonary
   edema in setting of malignant hypertension. Fluid removed after 3
   rounds of HD; extubated yesterday; improved respiratory status at this
   point.   Cultures c/w respiratory flora
   - Continue volume optimization with HD
   - Broad coverage antibiotics with Vancomycin and Zosyn for now given +
   gram stain; complete 8 day course (day #3)
   # ESRD/Hyperkalemia - Presumed [**12-26**] to patient missing HD session over
   the weekend. His EKG consistent with hyperkalemia; widened QRS and
   peaked T waves. Pt is now s/p Calcium gluconate, insulin, bicarbonate,
   and kayexalate.  Repeat EKG with improved QRS width.  Potassium wnl
   since HD
   -Renal following
   -Hold on HD today per renal
   - Continue Phos Lo
   #Low Grade Temp- Etiology uncertain; no evidence of pneumonia on CXR,
   although sputum growing 1+ GP cocci in pairs/chains/clusters and 1+ GP
   rods. Blood cultures NGTD and C.Diff neg. Overnight low grade 99.9.
   -F/U repeat blood cultures
   -Continue vanc/zosyn to complete 8 day course (complete on [**1-2**])
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # Atrial fibrillation: Noted during agitation overnight, not documented
   to have this in the past. Pt does have h/o dilated cardiomyopathy. Pt
   currently on IV Lopressorq6 given agitation and unable to take po
   -- Rate control with beta blocker IV; will switch to PO when able
   -- Consider systemic anticoagulation once stable
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session
   -Nitro gtt if needed
   -Titrate BB as needed
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -IV BB for now
   -CE flat
   ..
   # FEN: NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: Left AV fistula, 2 PIVs
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: ICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPERTENSION, BENIGN
 CARDIAC ARREST
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-12-27**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-12-28 11:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after several
   days of missed HD. Probable respiratory arrest from acute CHF, unlikely
   PEA but presented with K>8. Active issues include fluid overload/ pulm
   edema, presumed aspiration pna, diarrhea, agitation and resolving
   metabolic disarray after missed HD.
   24 Hour Events:
   extubated yest pm. Continued agitation overnight. Occasional bursts of
   SVT continue.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-12-26**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-28**] 08:29 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2169-12-27**] 01:05 PM
   Diazepam (Valium) - [**2169-12-27**] 01:45 PM
   Morphine Sulfate - [**2169-12-27**] 03:04 PM
   Metoprolol - [**2169-12-28**] 12:01 AM
   Haloperidol (Haldol) - [**2169-12-28**] 03:43 AM
   Famotidine (Pepcid) - [**2169-12-28**] 08:29 AM
   Lorazepam (Ativan) - [**2169-12-28**] 08:29 AM
   Other medications:
   Haldol prn, ASA, RISS, Heparin sc, folate, thiamine, famotidine, Ca
   acetate, nicotine patch, REquip held, IV metoprolol q6
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-28**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 99 (78 - 150) bpm
   BP: 161/43(98) {89/36(49) - 161/72(98)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    652 mL
                                                                    206 mL
   PO:
             TF:
   IVF:
                                                                    467 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                     50 mL
   Urine:
                                                                    100 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,448 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: ///25/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: agitated
   Eyes / Conjunctiva: Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   175 K/uL
   96 mg/dL
   6.3 mg/dL
   25 mEq/L
   3.3 mEq/L
   26 mg/dL
   100 mEq/L
   144 mEq/L
   31.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2169-12-26**]  03:23 AM
                             [**2169-12-26**]  10:29 AM
                             [**2169-12-26**]  10:50 AM
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
   WBC
   14.3
   14.1
   Hct
   32.5
   31.4
   Plt
   184
   175
   Cr
   6.3
   6.5
   8.0
   8.5
   6.3
   TropT
   0.11
   TCO2
   22
   35
   32
   29
   Glucose
   54
   107
   96
   83
   99
   86
   96
   Other labs: PT / PTT / INR:11.8/23.9/1.0, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:67.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: TTE- read pending
   Microbiology: C diff- neg
   Sputum- resp flora (prelim)
   blood- neg to date
   Assessment and Plan
   59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after several
   days of missed HD. Probable respiratory arrest from acute CHF, unlikely
   PEA but presented with K>8. Active issues include fluid overload/ pulm
   edema, presumed aspiration pna, diarrhea, agitation and presumptive
   opiate withdrawal.
   (1) RESP FAILURE- pulm edema + possible pna; extubated yest and
   resolving
   -cont fluid removal per HD
   -f/u sputum cx and cont empiric vanco + Zosyn and complete empiric 8d
   course
   -nicotine patch
   (2) AGITATION- presuming some opiate withdrawal but requiring
   escalating doses of Ativan and Haldol for control
   -use Haldol monotherapy; stop Ativan and follow QTc
   -ask Psych to assist
   -will obtain CT head when possible, may require intubation
   (3) AFIB- predisposed w/ dilated CM; current agitation
   -control agitation; cont BB IV for now
   -may need anticoag; deferring for now
   (4) ESRD- back on HD
   -monitor lytes
   (5) HTN- BB uptitrated today
   ICU Care
   Nutrition:
   Comments: npo for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2169-12-27**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2169-12-29 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Extreme agitation; pulled IV; could not manage thus intubated/sedated
   with propofol, fentanyl
   -Psych consulted- recommended Haldol QID and Haldol qid prn; could
   switch to zyprexa if needed; also recommended considering MRI-->however
   pt did okay and  was able to be on proprofol only
   -CT head- No acute intracranial process seen on non-contrast CT. If
   clinically warranted, MI would be recommended for more sensitive
   assessment of more subtle processes.
   -CXR s/p line placement:
   New Rt IJ CVL tip in mid-SVC. no PTX. increased ill-defined density in
   infrahilar Rt lower lung ?aspiration or developing consolidation-->no
   fever and WBC has been coming down so didn't start abx based on CXR
   finding
   -Renal to do HD today
   -Currently tolerating CPAP
 TRANSTHORACIC ECHO - At [**2169-12-28**] 10:26 AM
 INVASIVE VENTILATION - START [**2169-12-28**] 03:00 PM
 MULTI LUMEN - START [**2169-12-28**] 06:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-12-26**] 10:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-28**] 08:29 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-12-28**] 08:29 AM
   Lorazepam (Ativan) - [**2169-12-28**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 71 (69 - 99) bpm
   BP: 106/55(67) {90/39(53) - 168/78(98)} mmHg
   RR: 14 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    998 mL
                                                                    258 mL
   PO:
             TF:
   IVF:
                                                                    998 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                     10 mL
   Urine:
                                                                    130 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    868 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 446 (446 - 600) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   10.3 g/dL
   70 mg/dL
   8.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   40 mg/dL
   101 mEq/L
   147 mEq/L
   30.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2169-12-26**]  10:29 AM
                             [**2169-12-26**]  10:50 AM
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
   WBC
   14.3
   14.1
   11.3
   Hct
   32.5
   31.4
   30.7
   Plt
   184
   175
   220
   Cr
   6.3
   6.5
   8.0
   8.5
   6.3
   8.9
   TropT
   0.11
   TCO2
   35
   32
   29
   Glucose
   107
   96
   83
   99
   86
   96
   70
   Other labs: PT / PTT / INR:11.8/23.9/1.0, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:67.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Agitation- Patient persistantly agitated requiring large amounts of
   haldol, valium and ativan. Per pts PCP he takes 30mg oxycodone at home
   per day.  Unclear if agitation due to withdrawal from opiates given
   strong ETOH/? Drug abuse history.  Other ddx may include stroke vs
   viral encephalopathy. Reintubated and sedated yesterday in order to
   manage agitation and obtain CT.  Preliiminary read negative
   -Psych following; apprciate recs: can give Haldol 5QID and 5QID prn, or
   switch to zyprexa if QT prolonged
   -[**Month (only) 11**] need to consider LP
   -F.U final read of CT
   #Respiratory Distress- Most likely due to volume overload and pulmonary
   edema in setting of malignant hypertension. Fluid removed after 3
   rounds of HD; extubated yesterday; improved respiratory status at this
   point.   Cultures c/w respiratory flora.  Now reintubated on [**12-28**] for
   agitation; but doing well on CPAP this AM. CXR this AM with possible
   aspiration pneumonia but currently covered broadly
   - Continue Vancomycin and Zosyn for now given + gram stain; complete 8
   day course (day #4)
   # ESRD/Hyperkalemia - Presumed [**12-26**] to patient missing HD session over
   the weekend. His EKG consistent with hyperkalemia; widened QRS and
   peaked T waves. Pt is now s/p Calcium gluconate, insulin, bicarbonate,
   and kayexalate.  Repeat EKG with improved QRS width.  Potassium wnl
   since HD
   -Renal following
   -HD today
   - Continue Phos Lo
   #Low Grade Temp- Afebrile overnight. Presume fever was [**12-26**] pna on CXR.
    sputum growing 1+ GP cocci in pairs/chains/clusters and 1+ GP rods.
   Blood cultures NGTD and C.Diff neg. Overnight low grade 99.9.
   -F/U repeat blood cultures
   -Continue vanc/zosyn to complete 8 day course (complete on [**1-2**])
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # Atrial fibrillation: Noted during agitation overnight, not documented
   to have this in the past. Pt does have h/o dilated cardiomyopathy. Not
   requiring IV Lopressor overnight
   -- Rate control with beta blocker IV prn
   -- Consider systemic anticoagulation once stable
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session
   -BP was low on proporfol gtt
   -will need oral agents restarted once extubated
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -IV BB for now
   -CE flat
   ..
   # FEN: NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: Left AV fistula, 2 PIVs
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: ICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPERTENSION, BENIGN
 CARDIAC ARREST
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-12-30 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2169-12-29**] 09:59 AM
 LUMBAR PUNCTURE - At [**2169-12-29**] 02:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2169-12-29**] 09:02 PM
   [**12-29**]
   - Continues to be agitated, requiring large amount of sedation
   - ECG with a fib with RVR
   - Received 2x 500ml boluses for hypotension in setting of profound
   sedation
   - Started Diltiazem 90mg PO QID for rate control, Dilt gtt for RVR
   - LP performed, 1WBC, 1RBC, Protein
   Protein 41/Glucose 68/WBC 2/RBC 1/ Poly 4 /Lymph  33/Mono 63/
   - MRI obtained
   - Started Heparin gtt for a fib
   - Given Haldol this AM, will continue to schedule
   - Family continued to call through the night for MD discussion in spite
   of 6pm meeting
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-29**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2169-12-29**] 09:59 AM
   Heparin Sodium (Prophylaxis) - [**2169-12-29**] 10:00 PM
   Famotidine (Pepcid) - [**2169-12-29**] 10:00 PM
   Heparin Sodium - [**2169-12-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-30**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 68 (63 - 141) bpm
   BP: 97/33(49) {87/33(49) - 204/80(108)} mmHg
   RR: 17 (8 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,150 mL
                                                                    496 mL
   PO:
             TF:
   IVF:
                                                                  2,150 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     30 mL
   Urine:
                                                                     40 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,110 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 465 (264 - 640) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Agitated
   Labs / Radiology
   235 K/uL
   10.2 g/dL
   198 mg/dL
   6.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   28 mg/dL
   108 mEq/L
   148 mEq/L
   30.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2169-12-26**]  10:50 AM
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   Hct
   32.5
   31.4
   30.7
   30.4
   Plt
   184
   175
   220
   235
   Cr
   6.5
   8.0
   8.5
   6.3
   8.9
   6.9
   TCO2
   35
   32
   29
   Glucose
   96
   83
   99
   86
   96
   70
   198
   Other labs: PT / PTT / INR:13.2/118.5/1.1, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:62.5 %, Band:0.0 %, Lymph:26.1 %, Mono:4.4 %,
   Eos:6.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:10.5 mg/dL, Mg++:2.4 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Agitation- Patient persistantly agitated requiring large amounts of
   haldol, propofol. Per pts PCP he takes 30mg oxycodone at home per day.
   Unclear if agitation due to withdrawal from opiates given strong ETOH/?
   Drug abuse history.  Other ddx may include stroke vs viral
   encephalopathy. Patients family interviewed again, have not found any
   evidence of other substance use. Other Ddx considerations include
   embolic phenomena from atrial fibrillation of unknown duration,
   encephalitis (viral), withdrawal, etc. LP makes HSV encephalitis highly
   unlikely, rules out bacterial meningitis, CT head without bleed.
   Lastly would need to consider anoxic injury although much less likely
   in patient with only transient PEA arrest.
   -Psych following; apprciate recs: can give Haldol 5QID and 5QID prn, or
   switch to zyprexa if QT prolonged
   - Wean down propofol as tolerated
   -F/U LP cultures
   - F/U MRI
   #Respiratory Distress-Initially most likely due to volume overload and
   pulmonary edema in setting of malignant hypertension. Now intubated for
   airway protection and agitation. Vent settings at minimum
   - Continue Vancomycin and Zosyn for now given + gram stain; complete 8
   day course (day #5)
   # ESRD/Hyperkalemia
 Resolved now. On presentation Presumed [**12-26**] to
   patient missing HD session over the weekend. His EKG was consistent
   with hyperkalemia; widened QRS and peaked T waves
    - Continue Phos Lo
   #Low Grade Temp- Afebrile > 48hrs. Presume fever was [**12-26**] pna on CXR.
   sputum growing 1+ GP cocci in pairs/chains/clusters and 1+ GP rods.
   Blood cultures NGTD and C.Diff neg. Overnight low grade 99.9.
   -F/U repeat blood cultures
   -Continue vanc/zosyn to complete 8 day course (complete on [**1-2**])
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # Atrial fibrillation: Noted during agitation overnight, not documented
   to have this in the past. Pt does have h/o dilated cardiomyopathy. Not
   requiring IV Lopressor overnight
   -- Rate control with beta blocker IV prn
   -- Continue heparin
   -- TSH
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session
   -BP was low on proporfol gtt
   -will need oral agents restarted once extubated
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -IV BB for now
   -CE flat
   ..
   # FEN: NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: Left AV fistula, 2 PIVs
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: ICU
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPERTENSION, BENIGN
 CARDIAC ARREST
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-12-30 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after
   several days of missed HD. Probable respiratory arrest from acute CHF,
   unlikely PEA but presented with K>8. Active issues include fluid
   overload/ pulm edema, presumed aspiration pna, diarrhea, agitation and
   presumptive opiate withdrawal.
   24 Hour Events:
 EKG - At [**2169-12-29**] 09:59 AM QTc 460-480
 LUMBAR PUNCTURE - At [**2169-12-29**] 02:00 PM
   -2 WBC, 1 RBC
 MAGNETIC RESONANCE IMAGING - At [**2169-12-29**] 09:02 PM
   -Was getting fentanyl for agitation overnight. Now getting increased
   haldol, and off fentanyl
   -desaturation to 80
s overnight after MRI, but improved rapidly, no
   change in CXR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-29**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol
   Acyclovir
   Vancomycin
   Other ICU medications:
   Haloperidol (Haldol) - [**2169-12-29**] 09:59 AM
   Heparin Sodium (Prophylaxis) - [**2169-12-29**] 10:00 PM
   Famotidine (Pepcid) - [**2169-12-29**] 10:00 PM
   Heparin Sodium - [**2169-12-30**] 12:00 AM
   ASA
   RISS
   Vit C
   Folate
   Calcium acetate
   Nicotine patch
   Chlorhexidine
   Famotidine
   Diltiazem
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-30**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 63 (63 - 141) bpm
   BP: 125/62(78) {87/33(49) - 204/80(108)} mmHg
   RR: 14 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,150 mL
                                                                    509 mL
   PO:
             TF:
   IVF:
                                                                  2,150 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     30 mL
   Urine:
                                                                     40 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,110 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 465 (264 - 640) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   235 K/uL
   198 mg/dL
   6.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   28 mg/dL
   108 mEq/L
   148 mEq/L
   30.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2169-12-26**]  10:50 AM
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   Hct
   32.5
   31.4
   30.7
   30.4
   Plt
   184
   175
   220
   235
   Cr
   6.5
   8.0
   8.5
   6.3
   8.9
   6.9
   TCO2
   35
   32
   29
   Glucose
   96
   83
   99
   86
   96
   70
   198
   Other labs: PT / PTT / INR:13.2/118.5/1.1, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:62.5 %, Band:0.0 %, Lymph:26.1 %, Mono:4.4 %,
   Eos:6.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:10.5 mg/dL, Mg++:2.4 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after several
   days of missed HD. Probable respiratory arrest from acute CHF, unlikely
   PEA but presented with K>8. Active issues include fluid overload/ pulm
   edema, presumed aspiration pna, diarrhea, and agitated delirium.
   (1) AGITATION-DDx includes encephalitis, toxic/metabolic, med effect
   (Requip, high dose benzos). Encephalitis, meningitis much less likely
   now in light of normal LP.  Follow up read or MRI today for ? stroke.
   Also ? possibility of anoxic injury during preadmission event.
   -Haldol scheduled, and will try to wean propofol-EKG q shift for QTc
   -LP:  CSF is bland with 1 rbc and 2 wbc, ptn 41, glc 68
   -MRI read pending
   -cont intubation for airway protection, daily SBT
   -check TG levels given high-dose propofol
   (2) POSSIBLE PNA- completing empiric 8d course vanco + Zosyn,
   respiratory status now stable.  Keep intubated for mental status until
   we can successfully wean off prop.
   (3) AFIB- predisposed w/ dilated atrium; current agitation. Responded
   well to dilt, anticoagulating with heparin
   (4) ESRD- back on HD
   -monitor lytes
   (5) HTN- well controlled now on diltiazem
   ICU Care
   Nutrition: tube feeds tomorrow if not extubated.  For thiamine
   repletion, on folate as well
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: famotidine
   VAP: chlorhex, head of bed elev
   Comments:
   Communication:  Comments:  frequent conversations with family
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min

2169-12-31 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2169-12-30**] 09:00 PM
 EKG - At [**2169-12-31**] 12:00 AM
   - Continues to be agitated
   - MRI No evidence of acute infarct, mass effect, or hydrocephalus
   identified.
   - CSF culture and HSV PCR still pending
   - Standing haldol, difficult to wean propofol (although gtt was
   miscalculated on metavision, actually only on 45 (not 90).
   - started dilt gtt because persistant RVR despite IV pushes. Titrated
   down to 5mg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-30**] 08:03 AM
   Acyclovir - [**2169-12-30**] 01:04 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Diltiazem - 5 mg/hour
   Propofol - 65 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2169-12-30**] 04:17 PM
   Diltiazem - [**2169-12-30**] 10:30 PM
   Propofol - [**2169-12-31**] 04:25 AM
   Haloperidol (Haldol) - [**2169-12-31**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-31**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 80 (1 - 128) bpm
   BP: 176/68(95) {100/45(59) - 191/87(112)} mmHg
   RR: 12 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,830 mL
                                                                    501 mL
   PO:
             TF:
   IVF:
                                                                  1,530 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                      0 mL
   Urine:
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                    501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 677 (430 - 994) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema
   Skin:  Not assessed
   Neurologic: Sedated, withdraws to pain
   Labs / Radiology
   228 K/uL
   10.3 g/dL
   103 mg/dL
   4.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   97 mEq/L
   140 mEq/L
   29.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   10.4
   Hct
   32.5
   31.4
   30.7
   30.4
   29.7
   Plt
   184
   175
   220
   235
   228
   Cr
   6.5
   8.0
   8.5
   6.3
   8.9
   6.9
   4.8
   TCO2
   32
   29
   Glucose
   96
   83
   99
   86
   96
   70
   198
   103
   Other labs: PT / PTT / INR:11.8/68.9/1.0, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:58.1 %, Band:0.0 %, Lymph:29.9 %, Mono:4.9 %,
   Eos:6.9 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPERTENSION, BENIGN
 CARDIAC ARREST
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Agitation- Patient persistantly agitated requiring large amounts of
   haldol, propofol. Per pts PCP he takes 30mg oxycodone at home per day.
   Unclear if agitation due to withdrawal from opiates given strong ETOH/?
   Drug abuse history.  Other ddx may include stroke vs viral
   encephalopathy. Patients family interviewed again, have not found any
   evidence of other substance use. Other Ddx considerations include
   embolic phenomena from atrial fibrillation of unknown duration,
   encephalitis (viral), withdrawal, etc. LP makes HSV encephalitis highly
   unlikely, rules out bacterial meningitis, CT head without bleed.  MRI
   done also without evidence of anoxic brain injury or other acute
   pathology.
   -Psych following
   -QT prolonged this AM to 500; will d/c haldol
   -per psych will try Precedex for sedation and wean off propofol
   -Use zyprexa prn
   - cont acyclovir until HSV PCR returns
   - If agitation persists after trial of precedex will consult Neuro
   #Respiratory Distress-Initially most likely due to volume overload and
   pulmonary edema in setting of malignant hypertension. Now intubated for
   airway protection and agitation. Vent settings at minimum
   - Continue Vancomycin and Zosyn for now given + gram stain; complete 8
   day course (day #6)
   - Attempt precedex per psych given MS for alternate sedation
   - Check Triglycerides given prolonged use of propofol
   # ESRD/Hyperkalemia
 Resolved now. On presentation Presumed [**12-26**] to
   patient missing HD session over the weekend. His EKG was consistent
   with hyperkalemia; widened QRS and peaked T waves
    - Continue Phos Lo
   - Renal following
   #Low Grade Temp- Afebrile > 48hrs. Presume fever was [**12-26**] pna on CXR.
   sputum growing 1+ GP cocci in pairs/chains/clusters and 1+ GP rods.
   Blood cultures NGTD and C.Diff neg. Overnight low grade 99.9.
   -F/U repeat blood cultures
   -Continue vanc/zosyn to complete 8 day course (complete on [**1-2**])
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # Atrial fibrillation: Noted during agitation overnight, not documented
   to have this in the past. Pt does have h/o dilated cardiomyopathy.
   -- Wean dilt gtt
   -Continue PO diltizem 90 QID will add Metoprolol Tartrate 12.5 TID and
   titrate prn to wean off gtt
   -- Continue heparin and begin coumadin
   -- TSH
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session
   -BP was low on proporfol gtt
   - cont dilt gtt and wean as above
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -IV BB for now
   -CE flat
   ..
   # FEN: NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: RIJ, PIV, AV Fistula
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2169-12-31 07:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after several
   days of missed HD. Probable respiratory arrest from acute CHF, unlikely
   PEA but presented with K>8. Active issues include fluid overload/ pulm
   edema, presumed aspiration pna, diarrhea, agitation and presumptive
   opiate withdrawal
   24 Hour Events:
 EKG - At [**2169-12-30**] 09:00 PM-QTc ok
 EKG - At [**2169-12-31**] 12:00 AM-QTc .5
   Continued agitation overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-30**] 08:03 AM
   Acyclovir - [**2169-12-30**] 01:04 PM
   Vancomycin
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Diltiazem - 5 mg/hour
   Propofol - 65 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2169-12-30**] 04:17 PM
   Diltiazem - [**2169-12-30**] 10:30 PM
   Propofol - [**2169-12-31**] 04:25 AM
   Haloperidol (Haldol) - [**2169-12-31**] 06:21 AM
   ASA
   RISS
   B12
   Folate
   Nicotine patch
   famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-12-31**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 80 (1 - 128) bpm
   BP: 176/68(95) {100/45(59) - 191/87(112)} mmHg
   RR: 12 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,830 mL
                                                                    535 mL
   PO:
             TF:
   IVF:
                                                                  1,530 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                      0 mL
   Urine:
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 677 (430 - 994) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 5.3 L/min
   Physical Examination
   Gen:intubated, sedated and unresponsive
   HEENT:pupils constrcted, symmetrical
   CV:RRR, no m/r/g
   Pulm:CTA bilat
   Abd:soft, NTND
   Extrem:no edema
   Neuro:unresponsive, sedated
   Labs / Radiology
   10.3 g/dL
   228 K/uL
   103 mg/dL
   4.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   97 mEq/L
   140 mEq/L
   29.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2169-12-26**]  12:57 PM
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   10.4
   Hct
   32.5
   31.4
   30.7
   30.4
   29.7
   Plt
   184
   175
   220
   235
   228
   Cr
   6.5
   8.0
   8.5
   6.3
   8.9
   6.9
   4.8
   TCO2
   32
   29
   Glucose
   96
   83
   99
   86
   96
   70
   198
   103
   Other labs: PT / PTT / INR:11.8/68.9/1.0, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:58.1 %, Band:0.0 %, Lymph:29.9 %, Mono:4.9 %,
   Eos:6.9 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:307 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   CSF: culture neg to date, viral culture pending
   MRI: no acute change
   Assessment and Plan
   59 yo ESRD on HD, dilated CM, admitted w/ CP and dyspnea after several
   days of missed HD. Probable respiratory arrest from acute CHF, unlikely
   PEA but presented with K>8. Active issues include fluid overload/ pulm
   edema, presumed aspiration pna, diarrhea, and agitated delirium.
   (1) AGITATION-DDx includes encephalitis, toxic/metabolic, med effect
   (Requip, high dose benzos). Encephalitis, meningitis much less likely
   now in light of normal LP.  MRI negative.  Also ? possibility of anoxic
   injury during preadmission event, but no evidence of this on MRI
   -holding haldol for now due to QTc of .5
   -LP:  CSF is bland with 1 rbc and 2 wbc, ptn 41, glc 68
   -try to wean propofol and start precidex today per psychiatry recs.  If
   this does not lead to improved mental status and extubation then will
   consider neurology consult +/- EEG
   -cont intubation for airway protection, daily SBT
   -check TG levels given high-dose propofol
   (2) POSSIBLE PNA- completing empiric 8d course vanco + Zosyn,
   respiratory status now stable.  Keep intubated for mental status until
   we can successfully wean off prop.
   (3) AFIB- predisposed w/ dilated atrium; current agitation. Responded
   well to dilt, anticoagulating with heparin. Wean off dilt gtt today and
   starting po lopressor as well as continuing po dilt for afib controll
   (4) ESRD- back on HD
   -monitor lytes
   (5) HTN- well controlled now on diltiazem. Adding low-dose lopressor
   for better afib control
   ICU Care
   Nutrition: start tube feeds today
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: heparin gtt. Starting coumadin today
   Stress ulcer: H2 blocker
   VAP: chlorhex, HOB 30 degrees
   Comments:
   Communication:  :
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min

2170-01-01 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Added Metoprolol 12.5mg TID
   -Weaning diltizem gtt
   -Started Precedex
   -Renal: if plan to resume feeding consider Sevelamer for phosphate
   control, check albumin and/or ICa to monitor hypercalcemia
   -Off dilt gtt
   -still getting Propofol but weaned down
   History obtained from Family / [**Hospital 380**] Medical records
   Allergies:
   History obtained from Family / [**Hospital 380**] Medical [**Name2 (NI) 1992**] Known Drug
   Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-30**] 08:03 AM
   Acyclovir - [**2169-12-30**] 01:04 PM
   Piperacillin - [**2169-12-31**] 08:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Heparin Sodium - 1,150 units/hour
   Dexmedetomidine (Precedex) - 0.8 mcg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-1**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 59 (55 - 66) bpm
   BP: 131/58(75) {92/43(56) - 154/68(87)} mmHg
   RR: 15 (12 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,142 mL
                                                                    355 mL
   PO:
             TF:
                                                                    136 mL
   IVF:
                                                                  1,336 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,942 mL
                                                                    355 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (382 - 872) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   9.4 g/dL
   92 mg/dL
   6.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   96 mEq/L
   136 mEq/L
   27.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
                             [**2170-1-1**]  04:13 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   10.4
   8.5
   Hct
   32.5
   31.4
   30.7
   30.4
   29.7
   27.3
   Plt
   184
   175
   220
   235
   228
   227
   Cr
   8.0
   8.5
   6.3
   8.9
   6.9
   4.8
   6.8
   TCO2
   32
   29
   Glucose
   83
   99
   86
   96
   70
   198
   103
   92
   Other labs: PT / PTT / INR:12.2/64.1/1.0, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:64.5 %, Band:0.0 %, Lymph:23.3 %, Mono:4.8 %,
   Eos:7.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:307 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Agitation- Patient persistantly agitated requiring large amounts of
   haldol, propofol, self extubated this AM ahead of planned extubation.
   Per pts PCP he takes 30mg oxycodone at home per day.  Unclear if
   agitation due to withdrawal from opiates given strong ETOH/? Drug abuse
   history.  Other ddx may include stroke vs viral encephalopathy.
   Patients family interviewed again, have not found any evidence of other
   substance use. Other Ddx considerations include embolic phenomena from
   atrial fibrillation of unknown duration, encephalitis (viral),
   withdrawal, etc. LP makes HSV encephalitis highly unlikely, rules out
   bacterial meningitis, CT head without bleed.  MRI done also without
   evidence of anoxic brain injury or other acute pathology.
   -Psych following
   -Given prlonged qt changed to zyprexa for agitation
   - Acyclovir / Vanco / Zosyn
   - Weaning precedex rapidly now post extubation
   -Use zyprexa prn
   #Respiratory Distress-Initially most likely due to volume overload and
   pulmonary edema in setting of malignant hypertension. Now intubated for
   airway protection and agitation. Vent settings at minimum
   - Completed course with Vancomycin and Zosyn for now given + gram
   stain; complete 8 day course (day #[**7-1**])
   - Attempt precedex per psych given MS for alternate sedation
   - Check Triglycerides given prolonged use of propofol
   # ESRD/Hyperkalemia
 Resolved now. On presentation Presumed [**12-26**] to
   patient missing HD session over the weekend. His EKG was consistent
   with hyperkalemia; widened QRS and peaked T waves
    - Continue Phos Lo
   - Renal following
   #Low Grade Temp- Afebrile > 48hrs. Presume fever was [**12-26**] pna on CXR.
   sputum growing 1+ GP cocci in pairs/chains/clusters and 1+ GP rods.
   Blood cultures NGTD and C.Diff neg. Overnight low grade 99.9.
   -F/U repeat blood cultures
   -Continue vanc/zosyn to complete 8 day course (complete on [**1-2**])
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # Atrial fibrillation: Noted during agitation overnight, not documented
   to have this in the past. Pt does have h/o dilated cardiomyopathy.
   Currently weaned off dilt gtt
   -- Transition from  PO diltizem 90 QID decrease to 30mg to increase
   Metoprolol Tartrate to 50mg TID
   -- Continue heparin and coumadin
   -- Check coags
   -- TSH
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session
   -- Continue dilt, titrate down to 30mg daily
   -- metoprolol increase to 50mg TID
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -- CCB, BB
   ..
   # FEN: NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: RIJ, PIV, AV Fistula
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: ICU
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPERTENSION, BENIGN
 CARDIAC ARREST
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocoker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-01-01 10:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Self extubated this am. Remains on precidex, propofol d/c. Sat stable
   99% on FT.  Dilt drip d/c, now on lopressor alone for A.fib.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-30**] 08:03 AM
   Acyclovir - [**2169-12-30**] 01:04 PM
   Piperacillin - [**2169-12-31**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Propofol - 10 mcg/Kg/min
   Dexmedetomidine (Precedex) - 0.8 mcg/Kg/hour
   Other ICU medications:
   Other medications:
   ASA, insluin, Vitamin B12, nicotine patch, acyclovir, vancomycin,
   chlorhexidine, vanco, famotidine, dilt po, MVi, precidex at 0.7,
   warfarin, heparin iv.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-1**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.2
   HR: 60 (55 - 66) bpm
   BP: 149/61(85) {92/46(56) - 151/68(87)} mmHg
   RR: 14 (11 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,142 mL
                                                                    478 mL
   PO:
             TF:
                                                                    136 mL
   IVF:
                                                                  1,336 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,942 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 493 (382 - 872) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   227 K/uL
   92 mg/dL
   6.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   96 mEq/L
   136 mEq/L
   27.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2169-12-26**]  03:49 PM
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
                             [**2170-1-1**]  04:13 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   10.4
   8.5
   Hct
   32.5
   31.4
   30.7
   30.4
   29.7
   27.3
   Plt
   184
   175
   220
   235
   228
   227
   Cr
   8.0
   8.5
   6.3
   8.9
   6.9
   4.8
   6.8
   TCO2
   32
   29
   Glucose
   83
   99
   86
   96
   70
   198
   103
   92
   Other labs: PT / PTT / INR:12.2/64.1/1.0, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:64.5 %, Band:0.0 %, Lymph:23.3 %, Mono:4.8 %,
   Eos:7.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:307 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:7.1 mg/dL
   Imaging: CXR Clear.
   Microbiology: sputum with respiratory flora.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM): likely toxic metabolic related
   to versed and slow to clear metabolites, much improved this am,
   following commands and partly oriented. will d/c acyclovir as CSF
   cellcount was normal. WIll d/c precidex over course of next 2 hours.
   will hold off on haldol for now as QTc is prolonged.
 ATRIAL FIBRILLATION (AFIB): on po dilt and po lopressor. iv heparin
   and po coumadin, no history of this at baseline.. will obtain more
   records.. he may not need longterm anticogulation will discuss with
   him, his primary provider when his acute issues resolve.
   Respratory failure: likely [**12-26**] to pulmoanry edema, CXR now clear, and
   respiratory status much improved, self extuabted will monitor off the
   vent. Will d/c antitbiotics as there is no evidence for pneumonia.
 HD: last saturday, next in am.
 HYPERTENSION, BENIGN: will continue lopressor titrate this up,
   titrate down dilt,  and start clonidine if BP is still elevated once
   off precidex.
   ICU Care
   Nutrition:
   Comments: NPO pending SLP to see later today.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-01-02 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2170-1-1**] 09:50 AM
 INVASIVE VENTILATION - STOP [**2170-1-1**] 09:50 AM
   - Self extubated during rounds
   - Required some precedex after extubation, weaned off however and quiet
   on zyprexa
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-12-30**] 08:03 AM
   Acyclovir - [**2169-12-30**] 01:04 PM
   Piperacillin - [**2169-12-31**] 08:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2170-1-1**] 01:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-2**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 79 (60 - 100) bpm
   BP: 167/64(89) {149/61(85) - 195/98(122)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    684 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                    604 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    684 mL
                                                                     78 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 493 (493 - 493) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema
   Skin:  Not assessed
   Neurologic: Sedated, withdraws to pain
   Labs / Radiology
   308 K/uL
   10.1 g/dL
   76 mg/dL
   9.4 mg/dL
   20 mEq/L
   3.8 mEq/L
   29 mg/dL
   96 mEq/L
   139 mEq/L
   29.5 %
   13.3 K/uL
        [image002.jpg]
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
                             [**2170-1-1**]  04:13 AM
                             [**2170-1-2**]  05:06 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   10.4
   8.5
   13.3
   Hct
   32.5
   31.4
   30.7
   30.4
   29.7
   27.3
   29.5
   Plt
   184
   175
   220
   235
   228
   227
   308
   Cr
   8.0
   8.5
   6.3
   8.9
   6.9
   4.8
   6.8
   9.4
   TCO2
   29
   Glucose
   83
   99
   86
   96
   70
   198
   103
   92
   76
   Other labs: PT / PTT / INR:15.8/28.8/1.4, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:64.5 %, Band:0.0 %, Lymph:23.3 %, Mono:4.8 %,
   Eos:7.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:307 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.8 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPERTENSION, BENIGN
 CARDIAC ARREST
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Agitation- Patient persistantly agitated requiring large amounts of
   haldol, propofol, self extubated this AM ahead of planned extubation.
   Per pts PCP he takes 30mg oxycodone at home per day.  Unclear if
   agitation due to withdrawal from opiates given strong ETOH/? Drug abuse
   history.  Other ddx may include stroke vs viral encephalopathy.
   Patients family interviewed again, have not found any evidence of other
   substance use. Other Ddx considerations include embolic phenomena from
   atrial fibrillation of unknown duration, encephalitis (viral),
   withdrawal, etc. LP makes HSV encephalitis highly unlikely, rules out
   bacterial meningitis, CT head without bleed.  MRI done also without
   evidence of anoxic brain injury or other acute pathology.
   -Psych following
   -Given prlonged qt changed to zyprexa for agitation
   - Acyclovir / Vanco / Zosyn
   - Weaning precedex rapidly now post extubation
   -Use zyprexa prn
   #Respiratory Distress-Initially most likely due to volume overload and
   pulmonary edema in setting of malignant hypertension. Now intubated for
   airway protection and agitation. Vent settings at minimum
   - Completed course with Vancomycin and Zosyn for now given + gram
   stain; complete 8 day course (day #[**7-1**])
   - Attempt precedex per psych given MS for alternate sedation
   - Check Triglycerides given prolonged use of propofol
   # ESRD/Hyperkalemia
 Resolved now. On presentation Presumed [**12-26**] to
   patient missing HD session over the weekend. His EKG was consistent
   with hyperkalemia; widened QRS and peaked T waves
    - Continue Phos Lo
   - Renal following
   #Low Grade Temp- Afebrile > 48hrs. Presume fever was [**12-26**] pna on CXR.
   sputum growing 1+ GP cocci in pairs/chains/clusters and 1+ GP rods.
   Blood cultures NGTD and C.Diff neg. Overnight low grade 99.9.
   -F/U repeat blood cultures
   -Continue vanc/zosyn to complete 8 day course (complete on [**1-2**])
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # Atrial fibrillation: Noted during agitation overnight, not documented
   to have this in the past. Pt does have h/o dilated cardiomyopathy.
   Currently weaned off dilt gtt
   -- Transition from  PO diltizem 90 QID decrease to 30mg to increase
   Metoprolol Tartrate to 50mg TID
   -- Continue heparin and coumadin
   -- Check coags
   -- TSH
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session
   -- Continue dilt, titrate down to 30mg daily
   -- metoprolol increase to 50mg TID
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -- CCB, BB
   ..
   # FEN: NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: RIJ, PIV, AV Fistula
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2170-01-02 11:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2170-1-1**] 09:50 AM
 INVASIVE VENTILATION - STOP [**2170-1-1**] 09:50 AM
   Agitated delirium well managed with zyprexa overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2169-12-30**] 01:04 PM
   Piperacillin - [**2169-12-31**] 08:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2170-1-1**] 01:51 PM
   Other medications:
   ASA 325, insulin sliding scale, folic acid, nicotine patch, famotidine,
   MVI, coumadin, sevelamer, dilt 30 qid, clonidine, metoprolol 75 tid.
   Zyprexa q6hour getting it standing.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-2**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 86 (75 - 100) bpm
   BP: 183/59(89) {166/59(89) - 195/98(122)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    684 mL
                                                                    108 mL
   PO:
             TF:
   IVF:
                                                                    604 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    684 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): to home, [**2166**], Movement: Purposeful, Tone:
   Normal, pleasantly confused
   Labs / Radiology
   10.1 g/dL
   308 K/uL
   76 mg/dL
   9.4 mg/dL
   20 mEq/L
   3.8 mEq/L
   29 mg/dL
   96 mEq/L
   139 mEq/L
   29.5 %
   13.3 K/uL
        [image002.jpg]
                             [**2169-12-27**]  02:41 AM
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
                             [**2170-1-1**]  04:13 AM
                             [**2170-1-2**]  05:06 AM
   WBC
   14.3
   14.1
   11.3
   11.1
   10.4
   8.5
   13.3
   Hct
   32.5
   31.4
   30.7
   30.4
   29.7
   27.3
   29.5
   Plt
   184
   175
   220
   235
   228
   227
   308
   Cr
   8.0
   8.5
   6.3
   8.9
   6.9
   4.8
   6.8
   9.4
   TCO2
   29
   Glucose
   83
   99
   86
   96
   70
   198
   103
   92
   76
   Other labs: PT / PTT / INR:15.8/28.8/1.4, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:64.5 %, Band:0.0 %, Lymph:23.3 %, Mono:4.8 %,
   Eos:7.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:307 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.8 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB): recurrent this am. Will titrate up
   lopressor to 100 tid, and continue dilt. Run TBB even on HD. Hold
   coumadin until he is no longer a fall risk.
 ALTERED MENTAL STATUS (NOT DELIRIUM): remains confused, but better,
   less agitated on zyprexa.. continue prn zyprexa.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH): resolved.
 HYPERTENSION, BENIGN: continue lopressor titrate this up, and
   increase clonidine to 0.2 from 0.1.
 Hyperphosphatemia: resume sevalamer.
   ICU Care
   Nutrition:
   Comments: slowly advance diet.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU r/a in afternoon
   Total time spent: 30

2170-01-03 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Updated family: were concerned that he is still confused.
   Psych: olanzapine 5mg [**Hospital1 **], and [**Hospital1 **] prn for agitation
   - still delirious, but not combative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2169-12-31**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-3**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.3
   HR: 103 (75 - 114) bpm
   BP: 168/84(103) {157/59(89) - 187/90(110)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    770 mL
                                                                    129 mL
   PO:
                                                                    530 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                      0 mL
   Urine:
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   ABG: ///29/
   Labs / Radiology
   287 K/uL
   9.4 g/dL
   91 mg/dL
   6.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   18 mg/dL
   103 mEq/L
   145 mEq/L
   26.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
                             [**2170-1-1**]  04:13 AM
                             [**2170-1-2**]  05:06 AM
                             [**2170-1-3**]  04:16 AM
   WBC
   14.1
   11.3
   11.1
   10.4
   8.5
   13.3
   11.2
   Hct
   31.4
   30.7
   30.4
   29.7
   27.3
   29.5
   26.3
   Plt
   175
   220
   235
   [**Telephone/Fax (3) 10894**]
   287
   Cr
   8.5
   6.3
   8.9
   6.9
   4.8
   6.8
   9.4
   6.0
   TCO2
   29
   Glucose
   99
   86
   96
   70
   198
   103
   92
   76
   91
   Other labs: PT / PTT / INR:15.8/28.8/1.4, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:64.5 %, Band:0.0 %, Lymph:23.3 %, Mono:4.8 %,
   Eos:7.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:307 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPERTENSION, BENIGN
 CARDIAC ARREST
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   59 yo male with DM, ESRD on HD, dilated cardiomyopathy & HTN presented
   to OSH for shortness of breath and found to have hyperkalemia with QRS
   changes, hypertension and pulmonary edema, successfully weaned
   overnight however with persistant agitation and hypertension
   #Agitation / Delirium: Patient persistently agitated, still requiring
   large amounts of haldol, propofol. Likely large component of ICU
   psychosis, Per pts PCP he takes 30mg oxycodone at home per day.
   Unclear if agitation due to withdrawal from opiates given strong ETOH/?
   Drug abuse history.  Other ddx may include stroke vs viral
   encephalopathy. Patients family interviewed again, have not found any
   evidence of other substance use. Other Ddx considerations include
   embolic phenomena from atrial fibrillation of unknown duration,
   encephalitis (viral), withdrawal, etc. LP makes HSV encephalitis highly
   unlikely, rules out bacterial meningitis, CT head without bleed.  MRI
   done also without evidence of anoxic brain injury or other acute
   pathology.
   - Appreciate Psych consult following
   - Given prlonged qt changed to zyprexa 5mg for agitation q6 prn
   #Respiratory Distress-Initially most likely due to volume overload and
   pulmonary edema in setting of malignant hypertension. Also with
   pneumonia, now extubated x1 day.
   - Completed course with Vancomycin and Zosyn for now given + gram
   stain; (completed on [**1-1**])
   # ESRD/Hyperkalemia
 Resolved now. On presentation Presumed [**12-26**] to
   patient missing HD session over the weekend. His EKG was consistent
   with hyperkalemia; widened QRS and peaked T waves
   - HD Today
    - Continue Phos Lo
   - Renal following
   # Atrial fibrillation: Not documented to have this in the past. Pt does
   have h/o dilated cardiomyopathy. Currently weaned off dilt gtt; appears
   to go onto a.fibb when getting HD but resolves afterwards.
   -- Have titrated Metoprolol to 75mg TID and on Dilt 30mg  TID- rate
   controlled but BP not; will titrate up BB
   -- Heparin d/c
d given fall risk, d/c coumadin for now
   # [**Name (NI) 10699**] Pt with hypertensive urgency at OSH on nitro gtt; now weaned
   off; not clear if combination of medication non-compliance and/or
   missing HD session. At home on Nadolol 40mg,
   -- Discontinue Metoprolol (400mg daily) and start Nadolol 40mg daily
   -- Start amlodipine
   --Conitnue Diltiazem 30 QID
   --Continue Clonidine 0.2mg daily
   -Clarify home meds w/wife
   .
   # H/O Dilated Cardiomyopathy: Unknown etiology; Previous Cardiac cath
   in [**2164**] without evidence of coronary disease
   -- CCB, BB
   # s/p PEA [**Name (NI) 10698**] Unclear if patient truly had PEA arrest; documented
   that he lost pulse briefly but no CPR was done; pt given supplemental
   Oxygen/NRB and pulses regained without intervention. PEA documented at
   2204 this evening.  Differential includes hyperkalemia vs hypoxia
   (pulmary edema/respiratory distress) vs cardiac (initial symptoms of
   Chest pain, EKG changes). 3 sets of cardiac enzymes negative.  Not
   clear events that occurred.
   # CODE: FULL - confirmed with wife
   # CONTACT:  Wife [**Name (NI) 5249**]
   # DISPO: Floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2170-01-03 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Mental status overall improved, but remains delirious.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2169-12-31**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Zyprexa 5 [**Last Name (LF) **], [**First Name3 (LF) 68**] 325, b12, RISS, nicotine patch, sevalamer, dilt 30,
   metoprolol 100 q6, MVI, folate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-3**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.3
   HR: 80 (77 - 109) bpm
   BP: 169/49(79) {157/49(79) - 183/87(103)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    770 mL
                                                                    283 mL
   PO:
                                                                    530 mL
                                                                    170 mL
   TF:
   IVF:
                                                                    240 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                      0 mL
   Urine:
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, Movement: Purposeful, Tone: Normal, oriented to hospital,
   [**Location (un) **]
   Labs / Radiology
   9.4 g/dL
   287 K/uL
   91 mg/dL
   6.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   18 mg/dL
   103 mEq/L
   145 mEq/L
   26.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2169-12-27**]  04:45 AM
                             [**2169-12-27**]  07:42 AM
                             [**2169-12-27**]  07:49 AM
                             [**2169-12-28**]  03:48 AM
                             [**2169-12-29**]  02:09 AM
                             [**2169-12-30**]  04:18 AM
                             [**2169-12-31**]  12:01 AM
                             [**2170-1-1**]  04:13 AM
                             [**2170-1-2**]  05:06 AM
                             [**2170-1-3**]  04:16 AM
   WBC
   14.1
   11.3
   11.1
   10.4
   8.5
   13.3
   11.2
   Hct
   31.4
   30.7
   30.4
   29.7
   27.3
   29.5
   26.3
   Plt
   175
   220
   235
   [**Telephone/Fax (3) 10894**]
   287
   Cr
   8.5
   6.3
   8.9
   6.9
   4.8
   6.8
   9.4
   6.0
   TCO2
   29
   Glucose
   99
   86
   96
   70
   198
   103
   92
   76
   91
   Other labs: PT / PTT / INR:15.8/28.8/1.4, CK / CKMB /
   Troponin-T:139/5/0.11, ALT / AST:30/29, Alk Phos / T Bili:73/0.4,
   Differential-Neuts:64.5 %, Band:0.0 %, Lymph:23.3 %, Mono:4.8 %,
   Eos:7.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:307 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB): Continue lopressor and dilt in good
   control currently. d/c lopressor and change to nadolol which is home
   medication.
 ALTERED MENTAL STATUS (NOT DELIRIUM): continue zyprexa [**Hospital1 **] standing +
   prn q6, likely residual toxic metabolic.
 HYPERTENSION, BENIGN: start amlodipine and nadolol which are home
   [**Last Name (LF) 10901**], [**First Name3 (LF) 116**] d/c lopressor, dilt for the next day and likley stop
   as nadolol is added on and likely tirated up in am. Clonidine pending
   amlodipine taking effect.
Hypothyroidism: history of this. was on synthroid at home, will resume
   this 75mcg daily.
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-12-28**] 06:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes